US06274536B1
2-Chloro-1-(5-chloro-3-fluoropyridin-2-yl)- propan-1-one
20.8 g of 3-(5-chloro-3-fluoropyridin-2-yl)-2-methyl-3-oxopropionic acid (Example P35) are introduced into 125 ml of glacial acetic acid. 6.3 g of chlorine gas are introduced into the solution in the course of 1 hour . The mixture is then poured into 700 ml of water and extracted with tert-butyl methyl ether. The combined ethereal phases a rewashed with water and dried over magnesium sulfate, filtered and concentrated by evaporation in vacuo. The crude product is dissolved in 180 ml of tert-butyl methyl ether, 45 g of silica gel are added and the mixture is stirred for 30 minutes, in the course of which the evolution of gas observed initially comes to a halt. The silica gel is then filtered off and subsequently washed and the combined ethereal phases are concentrated to dryness in vacuo. 20.1 g of an oily crude product are obtained, which is purified over a flash chromatography column (silica gel; eluant: n-hexane/ethyl acetate 411 (v/v)). 17.0 g of the desired title compound are obtained in the form of a solid having a melting point of 29-32° C.

reactant | 3-(5-chloro-3-fluoropyridin-2-yl)-2-methyl-3-oxopropionic acid | 20.8 g | ClC=1C=C(C(=NC1)C(C(C(=O)O)C)=O)F | C9H7ClFNO3
reactant | acetic acid | 125 ml | C(C)(=O)O | C2H4O2
reactant | chlorine | 6.3 g | ClCl | Cl2
solvent | water | 700 ml | O | H2O
product | 2-Chloro-1-(5-chloro-3-fluoropyridin-2-yl)- propan-1-one | 20.1 g | ClC(C(=O)C1=NC=C(C=C1F)Cl)C | C8H6Cl2FNO
